US08222248B2
To a solution of 4-acetylamino-3-iodo-benzoic acid methyl ester (0.17 g) in TMG (1.5 mL) and dioxane (1.5 mL) were added 1,3-dichloro-2-ethynyl-benzene (0.1 g), 10 mol % of Pd(PPh3)2Cl2, and 10 mol % of CuI. The reaction mixture was heated to 100° C. overnight. The solvent were evaporated and the resulting mixture was purified by column chromatography (SiO2, 2:3, EtOAc/Hexane) to give 2-(2,6-dichloro-phenyl)-1H-indole-5-carboxylic acid methyl ester: MS (m/z) 320.0 (M+1).

reactant | 4-acetylamino-3-iodo-benzoic acid methyl ester | 0.17 g | COC(C1=CC(=C(C=C1)NC(C)=O)I)=O | C10H10INO3
reactant | 1,3-dichloro-2-ethynyl-benzene | 0.1 g | ClC1=C(C(=CC=C1)Cl)C#C | C8H4Cl2
catalyst | Pd(PPh3)2Cl2 | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | [Cu]I
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 2-(2,6-dichloro-phenyl)-1H-indole-5-carboxylic acid methyl ester | COC(=O)C=1C=C2C=C(NC2=CC1)C1=C(C=CC=C1Cl)Cl | C16H11Cl2NO2
